US04892962
2,2-Difluoro-4-pentenoic acid chloride
In a round-bottomed flask with a distillation head, 57.2 g (0.42 mol) of 2,2-difluoro-4-pentenoic acid are slowly added dropwise to 102.0 g of phosphorus tetrachloride. After stirring for 20 minutes at RT, the reaction mixture is distilled, 42.1 g (65%) of the acid chloride passing over as a colourless oil at 92°-98° C./988 mbar. 1H-NMR (60 MHz, CDCl3): 6.0-5.0 (m, 3H); 2.9 (d x t, J=6; 16 Hz, 2H).

reactant | 2,2-difluoro-4-pentenoic acid | 0.42 mol, 57.2 g | FC(C(=O)O)(CC=C)F | C5H6F2O2
reactant | phosphorus tetrachloride | 102.0 g | [P](Cl)(Cl)(Cl)Cl | Cl4P
product | 2,2-Difluoro-4-pentenoic acid chloride | FC(C(=O)Cl)(CC=C)F | C5H5ClF2O
